US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.073 g, 0.423 mmol) was reacted with benzyl azide (0.068 g, 0.509 mmol) following the general procedure for click reactions outlined above to produce 4-[2-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-ethyl]-1H-imidazol-2-ylamine hydrochloride (0.059 g, 46%) as a pale yellow oil. 1H NMR (300 MHz, CD3OD) δ 7.83 (d, 1H), δ 7.37-7.24 (m, 5H), δ 6.44 (d, 1H), δ 5.54 (d, 2H), δ 2.96 (m, 2H), δ 2.83 (m, 2H) ppm; 13C (75 MHz, CD3OD) δ 163.7, 147.3, 146.4, 135.7, 128.8, 128.4, 127.9, 127.8, 126.5, 122.6, 109.1, 53.7, 24.1, 23.9 ppm; HRMS (ESI) calcd for C14H6N6(M+) 269.1515. found 269.1513.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.423 mmol, 0.073 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | benzyl azide | 0.509 mmol, 0.068 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
product | 4-[2-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-ethyl]-1H-imidazol-2-ylamine hydrochloride | 0.059 g, 46% | Cl.C(C1=CC=CC=C1)N1N=NC(=C1)CCC=1N=C(NC1)N | InChI=1S/C14H16N6.ClH/c15-14-16-8-12(17-14)6-7-13-10-20(19-18-13)9-11-4-2-1-3-5-11;/h1-5,8,10H,6-7,9H2,(H3,15,16,17);1H
